US07402672B2
3-(3-Methoxy-phenylsulfanyl)-5-methoxy-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-36
Treat 5-methoxy-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide (1.0 equiv, prepared from the corresponding ethyl ester, Frydman, B.; Reil, S. J.; Boned, J.; Rapoport, H. J. Org. Chem. 1968, 33, 3762-6) in DMF with bis-(3-methoxyphenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-36 as an ivory colored solid, MS Obs 330.01 (M+1).

reactant | 5-methoxy-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | COC1=CC=C2C(=N1)C=C(N2)C(=O)N | C9H9N3O2
reactant | bis-(3-methoxyphenyl)disulfide | 1.1 equiv | COC=1C=C(C=CC1)SSC1=CC(=CC=C1)OC | C14H14O2S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(3-Methoxy-phenylsulfanyl)-5-methoxy-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | COC=1C=C(C=CC1)SC1=C(NC=2C1=NC(=CC2)OC)C(=O)N | C16H15N3O3S
